* C:\Users\Acer\Desktop\GitHub\TP_FE\Spice\Draft2.asc
R1 N001 A 50
R2 N002 N001 500K
V§AC1 N003 0 AC AC 1
V§DC1 A N003 5
C1 N002 0 1.95pf
R3 N002 0 1e12
.ac dec 1MEG 1 1G
.backanno
.end
