* C:\Users\Acer\Desktop\GitHub\TP_FE\Spice\Ej 2.asc
Rg N002 IN 50
R1 B N001 100k
R2 0 B 27k
RE 0 E 1k5
RC c N001 5.6k
R6 0 OUT 10k
C1 OUT c 10n
C3 N002 B 10n
VCC N001 0 12
Q1 c B E 0 BC547B
CE E 0 1µ
V1 IN 0 AC 100m
.model NPN NPN
.model PNP PNP
.lib C:\Users\Acer\Documents\LTspiceXVII\lib\cmp\standard.bjt
;.op
;.tran 100m startup
.ac dec 100 1 10meg
.backanno
.end
